US08106073B2
b) 1-(aminomethyl)cycloheptanol
A solution of 1-[(trimethylsilyl)oxy]cycloheptanecarbonitrile (737.5 g) in tetrahydrofuran (738 ml) was charged to a vessel containing 1 molar lithium aluminium hydride solution in tetrahydrofuran (4980 ml) and tetrahydrofuran (369 ml) whilst maintaining the temperature at 55° C. to 60° C. Tetrahydrofuran (738 ml) was charged and the reaction stirred for 3 hours at 60° C. to 65° C. The reaction was cooled to 10 to 15° C. and charged with water (193 ml), premixed sodium hydroxide solution [water (389 ml), sodium hydroxide (69 g)], tetrahydrofuran (738 ml) and water (193 ml) maintaining the temperature at 15° C. to 25° C. The mixture was stirred for 70 minutes and filtered. The filter cake was washed with tetrahydrofuran (1476 ml) twice. The filtrates and washes were combined and charged to a reaction vessel and concentrated to ca. 1480 mL at 65° C. to 70° C. The mixture was cooled to 15° C. to 25° C. and transferred to a container with tetrahydrofuran (369 ml), to provide the title compound (381 g) as a colourless solution in tetrahydrofuran (1613 ml).

reactant | 1-[(trimethylsilyl)oxy]cycloheptanecarbonitrile | 737.5 g | C[Si](OC1(CCCCCC1)C#N)(C)C | C11H21NOSi
reactant | lithium aluminium hydride | 1 molar | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 193 ml | O | H2O
reactant | sodium hydroxide | 389 ml, 69 g | [OH-].[Na+]
reactant | water | 193 ml | O | H2O
solvent | tetrahydrofuran | 738 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4980 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 369 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 738 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 738 ml | O1CCCC1 | C4H8O
product | 1-(aminomethyl)cycloheptanol | 381 g | NCC1(CCCCCC1)O | C8H17NO
